US09079930B2
(R)-4-(1-(4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxamido)ethyl)phenylphosphonic acid (3-5)
To a solution of (R)-diethyl 4-(1-(4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxamido)ethyl)phenylphosphonate, 3-4, (400 mg, 0.88 mmol) in DCM (10 ml) was added dropwise TMSBr (2.0 g, 13.15 mmol) at 0° C., and the reaction mixture was stirred at room temperature overnight. The reaction mixture was evaporated to dryness, and the residue was treated with MeCN and water at room temperature. The resulting solid was collected via filtration to obtain the product, 3-5, (200 mg). 1H NMR (DMSO-d6, 300 MHz,): δ 11.29 (s, 5H), 9.93-9.96 (m, 1H), 8.80-8.81 (m, 1H), 8.56 (s, 1H), 8.37-8.39 (m, 1H), 8.07-8.12 (m, 1H), 7.61-7.74 (m, 3H), 7.42-7.46 (m, 2H), 5.12-5.16 (m, 1H) 2.07 (s, 1H), 1.48-1.51 (m, 3H), (M+H)+=401.2.

reactant | (R)-diethyl 4-(1-(4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxamido)ethyl)phenylphosphonate | OC1=NC(=NC=C1C(=O)N[C@H](C)C1=CC=C(C=C1)P(OCC)(OCC)=O)C1=NC=CC=C1 | C22H25N4O5P
reactant | TMSBr | 13.15 mmol, 2.0 g | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-4-(1-(4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxamido)ethyl)phenylphosphonic acid | OC1=NC(=NC=C1C(=O)N[C@H](C)C1=CC=C(C=C1)P(O)(O)=O)C1=NC=CC=C1 | C18H17N4O5P
